US06881746B2
4-[[4-(4-Chlorophenyl)thiazol-2-yl]-(9H-fluoren-2-ylmethyl)amino]benzoic acid (300 mg; 0.59 mmol) was suspended in a mixture of DCM (4 mL) and DMF (4 mL). HOBt (88 mg; 0.64 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (128 mg; 0.64 mmol) were added. The mixture was stirred for 1 hour to give a clear solution. Then, β-alanine methyl ester hydrochloride (67 mg, 0.64 mmol) and DIPEA (350 μL) were added. The mixture was stirred at room temperature for 16 hours, then diluted with DCM (20 mL) and washed twice with water and once with brine. The organic phase was dried with anhydrous sodium sulphate and concentrated in vacuo to afford 310 mg (88%) of 3-{4-[[4-(4-chlorophenyl)thiazol-2-yl]-(9H-fluoren-2-ylmethyl)amino]benzoylamino}propionic acid methyl ester as a foam.

reactant | 4-[[4-(4-Chlorophenyl)thiazol-2-yl]-(9H-fluoren-2-ylmethyl)amino]benzoic acid | 0.59 mmol, 300 mg | ClC1=CC=C(C=C1)C=1N=C(SC1)N(C1=CC=C(C(=O)O)C=C1)CC1=CC=2CC3=CC=CC=C3C2C=C1 | C30H21ClN2O2S
reactant | HOBt | 0.64 mmol, 88 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.64 mmol, 128 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | β-alanine methyl ester hydrochloride | 0.64 mmol, 67 mg | Cl.COC(CCN)=O
reactant | DIPEA | 350 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-{4-[[4-(4-chlorophenyl)thiazol-2-yl]-(9H-fluoren-2-ylmethyl)amino]benzoylamino}propionic acid methyl ester | 310 mg, 88% | COC(CCNC(C1=CC=C(C=C1)N(CC1=CC=2CC3=CC=CC=C3C2C=C1)C=1SC=C(N1)C1=CC=C(C=C1)Cl)=O)=O | C34H28ClN3O3S
